US08044206B2
tert-Butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate was reacted in the presence of p-toluenesulfonylmethylisocyanide, potassium tert-butoxide and ethanol in 1,2-dimethoxyethane to produce tert-butyl 3-cyano-8-azabicyclo[3.2.1]octane-8-carboxylate.

reactant | tert-Butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate | O=C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H19NO3
reactant | p-toluenesulfonylmethylisocyanide | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | tert-butyl 3-cyano-8-azabicyclo[3.2.1]octane-8-carboxylate | C(#N)C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C13H20N2O2
